"Source and termination noise"
.source V1
.detector V_out
.param L_s=120m R_s=875 f_res=150k C_s={1/(L_s*4*pi^2*f_res^2)} R_t=79.97k
.param A_v1=62.4e3 tau_i={1/A_v1} R_i=1.6k C_i={tau_i/R_i}
V1 1 0 V value=1 dc=0 noise=0 dcvar=0
L1 1 2 L value={L_s} iinit=0
R1 2 in R value={R_s} noisetemp={T} noiseflow=0 dcvar=0 dcvarlot=0
C1 in 0 C value={C_s} vinit=0
R2 in 0 R value={R_t} noisetemp={T} noiseflow=0 dcvar=0 dcvarlot=0
R3 in 3 R value={R_i} noisetemp={T} noiseflow=0 dcvar=0 dcvarlot=0
C2 3 out C value={C_i} vinit=0
N1 out 0 3 0 N
.param T=300
.end
