dualStageEKVcompensated
.source V1
.detector V_out
.lgref Gm_M1_X2
C2 out 0 C value={C_L} vinit=0
C3 5 4 C value={C_i} vinit=0
C4 in 0 C value={C_s} vinit=0
L1 in 1 L value={L_s} iinit=0
R1 1 2 R value={R_s} noisetemp={T} noiseflow=0 dcvar=0 dcvarlot=0
R2 in 0 R value={R_t} noisetemp={T} noiseflow=0 dcvar=0 dcvarlot=0
R3 4 0 R value={R_f} noisetemp={T} noiseflow=0 dcvar=0 dcvarlot=0
R4 out 5 R value={R_phz} noisetemp={T} noiseflow=0 dcvar=0 dcvarlot=0
R5 5 4 R value={R_b} noisetemp={T} noiseflow=0 dcvar=0 dcvarlot=0
V1 2 0 V value=0 noise=0 dc=0 dcvar=0
X1 3 0 in 4 CMOS18PD W={W1} L={L1} ID={ID1}
X2 5 3 0 0 CMOS18N W={W2} L={L2} ID={ID2}
.end