.subckt noisyNullorN outP outN inP inN W=220n L=180n M=1 ID=1u VGS=0.6 VDS=0.9
F1 inN 1 V1 1
H1 outN outP V1 1
I1 inN 1 {ID}
M1 1 2 inN inN nch m={M} w={W} l={L}
V1 1 inN {VDS}
V2 2 inP {VGS}
.ends