"CScapNoiseI"
.source I1
.detector V_out
.lib C18.lib
.param C_s=0.1p W=57.4u L=180n ID=6.47m IG=0
C1 1 0 C value={C_s} vinit=0
I1 0 1 I value=0 noise=0 dc=0 dcvar=0
X1 1 0 out NM18_noise ID={ID} IG={IG} W={W} L={L}
.end