"PhZbwLimit"
.source I1
.detector V_out
.lgref E1
C1 1 out C value={C_f} vinit=0
C2 1 0 C value={C_s} vinit=0
E1 out 0 1 0 E value={A/(s*(1+s*tau_2))}
I1 0 1 I value=0 noise=0 dc=0 dcvar=0
R1 1 out R value={R_f} noisetemp=0 noiseflow=0 dcvar=0 dcvarlot=0
.end