RL3_1
* file: RL3_1.cir
V1 1 0 0
E1 2 0 1 2 {A_0*(1+s/150/pi)/(20k*pi^2 + 200*pi*s + s^2)/s}
.param A_0 = 2.5e8
.source V1
.detector V_2
.lgRef E1
.end
