"VampBiasNullor"
.detector V_6
N1 0 6 4 5 N
R1 1 2 R value={R_a} noisetemp=0 noiseflow=0 dcvar=0 dcvarlot=0
R2 2 3 R value={R_b} noisetemp=0 noiseflow=0 dcvar=0 dcvarlot=0
R3 2 4 R value={R_c} noisetemp=0 noiseflow=0 dcvar=0 dcvarlot=0
R4 5 6 R value={(A_v-1)*R} noisetemp=0 noiseflow=0 dcvar=0 dcvarlot=0
V1 1 0 V value=0 noise=0 dc={V_P} dcvar=0
V2 0 3 V value=0 noise=0 dc={V_N} dcvar=0
.end