"VampNoise"
.source V1
.detector V_out
.param A_v=20 R_s=600
R1 out 2 R value={(A_v-1)*R_a} noisetemp={T} noiseflow=0 dcvar=0 dcvarlot=0
R2 2 0 R value={R_a} noisetemp={T} noiseflow=0 dcvar=0 dcvarlot=0
R3 1 3 R value={R_s} noisetemp={T} noiseflow=0 dcvar=0 dcvarlot=0
V1 1 0 V value=0 noise=0 dc=0 dcvar=0
X1 3 2 out 0 N_noise sv={S_v} si={S_i}
.end