"activePHZ"
.source I1
.detector V_out
.lgRef E_O1
.param A_0=300k
C1 3 0 C value=1u vinit=0
C2 out 0 C value=10u vinit=0
C3 4 1 C value=2.7n vinit=0
I1 0 out I value=0 noise=0 dc=0 dcvar=0
O1 3 2 out 0 AD8610_A0
O2 out 4 2 0 AD8610
R1 5 3 R value=15k noisetemp=0 noiseflow=0 dcvar=0 dcvarlot=0
R2 2 4 R value=1k noisetemp=0 noiseflow=0 dcvar=0 dcvarlot=0
R3 1 0 R value=82 noisetemp=0 noiseflow=0 dcvar=0 dcvarlot=0
V1 5 0 V value=0 noise=0 dc=0 dcvar=0
.end