"cdriver"
.source V1
.detector V_out
.lgRef E_O1
C1 1 0 C value=1u vinit=0
C2 out 0 C value=10u vinit=0
O1 1 out out 0 AD8610
R1 2 1 R value=15k noisetemp=0 noiseflow=0 dcvar=0 dcvarlot=0
V1 2 0 V value=0 noise=0 dc=0 dcvar=0
.end