"cdriver"
.source I1
.detector V_out1
.lgRef E_O1
.param R_phz=0.18
C1 1 0 C value=1u vinit=0
C2 out2 0 C value=10u vinit=0
I1 0 out1 I value=0 noise=0 dc=0 dcvar=0
I2 0 out2 I value=0 noise=0 dc=0 dcvar=0
O1 1 out1 out1 0 AD8610
R1 2 1 R value=15k noisetemp=0 noiseflow=0 dcvar=0 dcvarlot=0
R2 out1 out2 r value={R_phz} noisetemp=0 noiseflow=0 dcvar=0 dcvarlot=0
V1 2 0 V value=0 noise=0 dc=0 dcvar=0
.end