"cfbVampExtended"
.source V1
.detector V_3
.lgRef H_O1
.model mycfb OC cp={C_i} gp={1/R_i} cpn={C_d} gpn={1/R_d} gm={g_m} zt={R_t/(1+s*tau)} zo={R_o/(1+s*tau)}
.param C_i=5p R_i=1M g_m=20m R_t=1M R_o=2k tau=50u R_a=2k R_b=500 R_s=100 R_ell=500 V_s=1 C_d=2p R_d=10k
O1 2 4 3 0 mycfb
R1 2 1 R value={R_s} noisetemp=0 noiseflow=0 dcvar=0 dcvarlot=0
R2 4 0 R value={R_b} noisetemp=0 noiseflow=0 dcvar=0 dcvarlot=0
R3 3 4 R value={R_a} noisetemp=0 noiseflow=0 dcvar=0 dcvarlot=0
R4 3 0 R value={R_ell} noisetemp=0 noiseflow=0 dcvar=0 dcvarlot=0
V1 1 0 V value={V_s} noise=0 dc=0 dcvar=0
.end