simpleQamp
* file: simpleQamp.cir
* SLiCAP circuit file
I1 0 1 {I_s}
R1 1 0 {R_s}
C1 1 2 {C_i}
R2 2 0 {R_ell}
E1 2 0 0 1 {A_0}
.param C_i=5p R_s=50k R_ell=2k
.source I1
.detector V_2
.lgRef E1
.end

